US06231833B1
(7R,9aS)-7-Phenoxymethyl-2-(5-chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A mixture of (7R,9aS)-N-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (WO 93/25552) and 3,5-difluorophenol were coupled followed by N-BOC deprotection according to Preparation 9. The product from this reaction was coupled with 2,5-dichloropyridine according to Preparation 11 to give the title compound. mp (—HCl) 260-261° C. HRMS calcd for C20H22ClF2N3O: 393.1419, found: 393.1410.

reactant | (7R,9aS)-N-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)CO | C14H26N2O3
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
product | (7R,9aS)-7-Phenoxymethyl-2-(5-chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | O(C1=CC=CC=C1)C[C@@H]1CC[C@@H]2N(CCN(C2)C2=NC=C(C=C2)Cl)C1 | C20H24ClN3O
